US04695312
(2) 4-Chloro-5-difluoromethoxy-2-fluoronitrobenzene XII -1
To 21 g of conc. nitric acid was dropwise added 28 g of conc. sulfuric acid at 0° C., and the mixture was heated at 60° C. At intervals of 3 minutes, 10 g of 1-chloro-2-difluoromethoxy-5-fluorobenzene was added in 5 portions to the mixture, which was kept at 60° C. for half an hour. After cooling, the reaction mixture was poured on ice water and shaken with chloroform. The chloroform layer was washed with water, dried and concentrated. The residue was chromatographed on a column of silica gel, eluting with n-hexane-ethyl acetate (100:15 v/v). The eluate was concentrated to give 11 g of the titled compound XII-1.

reactant | nitric acid | 21 g | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 28 g | S(O)(O)(=O)=O | H2O4S
reactant | 1-chloro-2-difluoromethoxy-5-fluorobenzene | 10 g | ClC1=C(C=CC(=C1)F)OC(F)F | C7H4ClF3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-5-difluoromethoxy-2-fluoronitrobenzene | 11 g | ClC1=CC(=C(C=C1OC(F)F)[N+](=O)[O-])F | C7H3ClF3NO3
